US05412137
To a solution of 5.0 gms of 1-aminoheptane in 150 ml of CH2Cl2, is added 10.9 ml of Et3N followed by 2.79 ml of acetyl chloride. The reaction mixture is stirred at room temperature for 18 hours and then concentrated under vacuum. The residue obtained is partitioned between ethyl acetate and an aqueous 2N HCl solution; and after separating, the organic layer is washed with aqueous saturated NaHCO3, then brine, and dried over Na2SO4. After filtration and concentration, N-heptylacetamide is obtained as a clear liquid.

reactant | 1-aminoheptane | 5.0 gms | NCCCCCCC | C7H17N
reactant | Et3N | 10.9 ml | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 2.79 ml | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | N-heptylacetamide | C(CCCCCC)NC(C)=O | C9H19NO
